US06498179B1
A mixture of 6-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]hexyl methansulfonate(2.11 g), imidazole(660 mg), potassium carbonate(1.33 g) and N,N-dimethylformamide(40 ml) was stirred for 2 hours at 90-95° C. Water was added to the reaction mixture. The resulting mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, and dried(MgSO4). The residue obtained by evaporating the solvent was subjected to silica gel column chromatography. From the fraction eluted with methanol-chloroform(3:97, v/v), obtained was 4-(4-chlorophenyl)-5-[6-(1-imidazolyl)hexyl]-2-(2-methyl-1-imidazolyl)oxazole(1.26 g, 64%). The oily substance (1.26 g) was dissolved in methanol(5 ml), and thereto a 4N-hydrochloric acid-ethyl acetate solution (1.7 ml) was added. The reaction mixture was concentrated. Ethyl acetate was added to the residue. The precipitated white powder was collected by filtration. This was recrystallized from methanol-acetone to give 4-(4-chlorophenyl)-5-[6-(1-imidazolyl)hexyl]-2-(2-methyl-1-imidazolyl)oxazole dihydrochloride hemihydrate(1.16 g, 49%). mp 171-173° C.

reactant | 6-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]hexyl methansulfonate | 2.11 g | CS(=O)(=O)OCCCCCCC1=C(N=C(O1)N1C(=NC=C1)C)C1=CC=C(C=C1)Cl | C20H24ClN3O4S
reactant | imidazole | 660 mg | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 1.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-chlorophenyl)-5-[6-(1-imidazolyl)hexyl]-2-(2-methyl-1-imidazolyl)oxazole | 1.26 g | ClC1=CC=C(C=C1)C=1N=C(OC1CCCCCCN1C=NC=C1)N1C(=NC=C1)C | C22H24ClN5O
reactant | hydrochloric acid ethyl acetate | 1.7 ml | Cl.C(C)(=O)OCC
solvent | methanol | 5 ml | CO | CH4O
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-(4-chlorophenyl)-5-[6-(1-imidazolyl)hexyl]-2-(2-methyl-1-imidazolyl)oxazole dihydrochloride hemihydrate | 1.16 g, 49% | O.Cl.Cl.ClC1=CC=C(C=C1)C=1N=C(OC1CCCCCCN1C=NC=C1)N1C(=NC=C1)C.ClC1=CC=C(C=C1)C=1N=C(OC1CCCCCCN1C=NC=C1)N1C(=NC=C1)C.Cl.Cl | InChI=1S/2C22H24ClN5O.4ClH.H2O/c2*1-17-25-12-15-28(17)22-26-21(18-7-9-19(23)10-8-18)20(29-22)6-4-2-3-5-13-27-14-11-24-16-27;;;;;/h2*7-12,14-16H,2-6,13H2,1H3;4*1H;1H2
